US06147216
Step a: 4-[4-[4-(Hydroxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]-α,α-dimethylbenzeneacetic Acid, Methyl Ester Hydrochloride
Dissolve 2-[4-(4-chloro-butyryl)-phenyl]-2-methyl-propionic acid, methyl ester (2.82 g, 10.0 mmol) and α,α-diphenyl-4-piperidinemethanol (5.58 g, 21.0 mmol) in toluene (20 mL). Reflux for 29 hours, cool in an ice bath, filter, filter the filtrate though silica gel (5 g) and wash the gel with toluene (10 mL). Evaporate the solvent in vacuo and dissolve the residue in ethyl ether (100 mL). Add anhydrous hydrogen chloride and filter to give the title compound as an off-white powder (4.2 g, 76%); mp 165-175° C.

reactant | 2-[4-(4-chloro-butyryl)-phenyl]-2-methyl-propionic acid, methyl ester | 10.0 mmol, 2.82 g | ClCCCC(=O)C1=CC=C(C=C1)C(C(=O)OC)(C)C | C15H19ClO3
reactant | α,α-diphenyl-4-piperidinemethanol | 21.0 mmol, 5.58 g | C1(=CC=CC=C1)C(O)(C1CCNCC1)C1=CC=CC=C1 | C18H21NO
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[4-[4-(Hydroxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]-α,α-dimethylbenzeneacetic Acid, Methyl Ester Hydrochloride | 4.2 g, 76% | Cl.OC(C1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)C(C(=O)OC)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C33H39NO4.ClH/c1-32(2,31(36)38-3)26-18-16-25(17-19-26)30(35)15-10-22-34-23-20-29(21-24-34)33(37,27-11-6-4-7-12-27)28-13-8-5-9-14-28;/h4-9,11-14,16-19,29,37H,10,15,20-24H2,1-3H3;1H
